US04057416
Seventeen grams of 1,1-dimethyl-3-(4-cyano-3-(ethylthio)5-isothiazolyl)urea was treated with 2.75 g of 30% hydrogen peroxide in the manner described in Example II. No solid separated on cooling the reaction mixture. The mixture was neutralized with saturated aqueous sodium bicarbonate solution, then concentrated to near dryness. The viscous residue was crystallized from ethanol to yield 13.8 g of 1,1-dimethyl-3-(4-cyano-3-(ethylsulfinyl)-5-isothiazolyl)urea, m.p. 162°-163°. The nmr spectrum was consistent with the assigned structure.

reactant | 1,1-dimethyl-3-(4-cyano-3-(ethylthio)5-isothiazolyl)urea | Seventeen grams | CN(C(=O)NC1=C(C(=NS1)SCC)C#N)C | C9H12N4OS2
reactant | hydrogen peroxide | 2.75 g | OO | H2O2
product | 1,1-dimethyl-3-(4-cyano-3-(ethylsulfinyl)-5-isothiazolyl)urea | 13.8 g | CN(C(=O)NC1=C(C(=NS1)S(=O)CC)C#N)C | C9H12N4O2S2
